US05534646
2,4-Di(2,6-diisopropylphenoxy)-1,3-diphenyl-1,3,2,4-diazadiphosphetidine
The procedure of Example 1 is repeated using 2,4-dichloro-1,3-diphenyl-1,3,2,4-diazadiphosphetidine, 2,6-diisopropylphenol and triethylamine to give the title compound.

reactant | 2,4-dichloro-1,3-diphenyl-1,3,2,4-diazadiphosphetidine | ClP1N(P(N1C1=CC=CC=C1)Cl)C1=CC=CC=C1 | C12H10Cl2N2P2
reactant | 2,6-diisopropylphenol | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,4-Di(2,6-diisopropylphenoxy)-1,3-diphenyl-1,3,2,4-diazadiphosphetidine | C(C)(C)C1=C(OP2N(P(N2C2=CC=CC=C2)OC2=C(C=CC=C2C(C)C)C(C)C)C2=CC=CC=C2)C(=CC=C1)C(C)C | C36H44N2O2P2
